US06936608B2
e) 7-[3-(1-Methyl-1H-[1,2,4]triazol-3-yl)phenyl-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
This reaction was carried out as described in Example 37, step e, using 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1-methyl-1H-[1,2,4]triazole (515 mg, 1.9 mmol), 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.461 g, 1.73 mmol), 2 M Na2CO3 (1.9 ml) and tetrakis(triphenylphosphine)palladium(0) (0.1 g) in 1,2-dimethoxyethane (4 ml). The crude residue was purified by flash chromatography (silica gel, 5% MeOH/CH2Cl2) and triturated with Et2O to yield the title compound (346 mg, 58%). 1H NMR (360 MHz, CDCl3) δ 4.02 (3H, s), 7.64 (1H, t, J 7.9 Hz), 8.11 (1H, s), 8.16 (1H, dt, J 8.2, 1.6 Hz), 8.21 (1H, dt, J 8.2, 1.6 Hz), 8.71 (1H, s), 8.81 (1H, t, J 1.4 Hz), 8.84 (1H, s); MS (ES+) m/z 346 [M+H]+.

reactant | 3-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1-methyl-1H-[1,2,4]triazole | 1.9 mmol, 515 mg | CC1(COB(OC1)C=1C=C(C=CC1)C1=NN(C=N1)C)C | C14H18BN3O2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 1.73 mmol, 0.461 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | Na2CO3 | 2 M, 1.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-Methyl-1H-[1,2,4]triazol-3-yl)phenyl-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 346 mg, 58% | CN1N=C(N=C1)C=1C=C(C=CC1)C=1C(=NC=2N(N1)C=CN2)C(F)(F)F | C15H10F3N7
